US06211199B1
2.2.5 Synthesis of (3-(3,4-dichlorophenyl)-5-oxopyrrolidin-3-yl)acetic Acid Ethyl Ester
Combine Raney nickel (twice washed with water and twice washed with ethanol, 3.6 kg), 3-cyano-3-(3,4-dichlorophenyl)pentanedioic acid diethyl ester (1260 g, 3.51 mol), ethanol (9 L), and an aqueous concentrated ammonia solution (1.6 L) in a 5 gallon autoclave. Hydrogenate at 55 psi. After 20 hours, vent the vessel, purge with nitrogen, and filter. Rinse the solids with ethanol (about 1 L). Evaporate the filtrate in vacuo to give a residue. Combine the residue and ethyl acetate (10 L) and extract twice with water (1 L) and then with brine. Dry the organic layer over MgSO4, filter, and concentrate in vacuo to give a residue. Crystallize the residue from ethyl acetate (about 1.8 L) and heptane (about 7.2 L) to give a solid. Collect the solid to give the title compound: mp; 98-99° C.

reactant | 3-cyano-3-(3,4-dichlorophenyl)pentanedioic acid diethyl ester | 3.51 mol, 1260 g | C(C)OC(CC(CC(=O)OCC)(C1=CC(=C(C=C1)Cl)Cl)C#N)=O | C16H17Cl2NO4
reactant | ammonia | 1.6 L | N | H3N
reactant | ethyl acetate | 10 L | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 9 L | C(C)O | C2H6O
product | (3-(3,4-dichlorophenyl)-5-oxopyrrolidin-3-yl)acetic Acid Ethyl Ester | C(C)OC(CC1(CNC(C1)=O)C1=CC(=C(C=C1)Cl)Cl)=O | C14H15Cl2NO3
